US08003785B2
To a mixture of 3.44 g (0.056 g-atom) of zinc powder (−325 mesh) and 60 mL of anhydrous tetrahydrofuran was added 5.0 mL (0.039 mole) of chlorotrimethylsilane in one portion. After stirring for 20 minutes, a solution of 5.1 mL (0.039 mole) of ethyl bromodifluoroacetate in 5 mL of tetrahydrofuran was added dropwise at a rate to keep the internal temperature below 35 degrees. The mixture was stirred for 20 minutes and then cooled to −10 to 0 degrees. A solution of 7 g (0.026 mole) of benzotriazol-1-ylmethyl-(3-phenyl-propyl)-amine in 30 mL of tetrahydrofuran was added dropwise at a rate to keep the internal temperature at −10 to 0 degrees. After 10 minutes the reaction mixture was warmed to room temperature and stirred for 3 hours at room temperature. The solution was cooled to −10 to 0 degrees and quenched by the addition of saturated aqueous sodium bicarbonate at a rate to maintain the internal temperature −10 to 0 degrees. Ether was added, the mixture was stirred for 15 minutes at room temperature and then filtered through Celite, washing with ether. The filtrate was extracted 3 times with ether. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. Ether and hexane were added to the residue, the solids were removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexane-ethyl acetate (gradient, 100:0-80:20) to give 1.1 g of 2,2-difluoro-3-(3-phenyl-propylamino)-propionic acid ethyl ester as a oil.

reactant | chlorotrimethylsilane | 0.039 mole, 5.0 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethyl bromodifluoroacetate | 0.039 mole, 5.1 mL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | benzotriazol-1-ylmethyl-(3-phenyl-propyl)-amine | 0.026 mole, 7 g | N1(N=NC2=C1C=CC=C2)CNCCCC2=CC=CC=C2 | C16H18N4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | zinc | 3.44 g | [Zn] | Zn
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2,2-difluoro-3-(3-phenyl-propylamino)-propionic acid ethyl ester | 1.1 g | C(C)OC(C(CNCCCC1=CC=CC=C1)(F)F)=O | C14H19F2NO2
